US09447092B2
3-((4-(6-Chloro-2-(1,3-dimethyl-1H-pyrazol-4-yl)-3H-imidazo[4,5-b]pyridin-7-yl)piperazin-1-yl)methyl)-1,2,4-oxadiazole
To a solution of 4-(4-((1,2,4-oxadiazol-3-yl)methyl)piperazin-1-yl)-5-chloro-3-nitropyridin-2-amine (50.0 mg, 0.147 mmol) and 1,3-dimethyl-1H-pyrazole-4-carbaldehyde (19.2 mg, 0.155 mmol) in EtOH (3.4 mL) was added 1M Na2S2O4 (0.588 mL, 0.588 mmol, freshly prepared) and the solution was heated to 80° C. and stirred for 15 h whilst being open to air. Once cooled, the reaction was evaporated in vacuo and the residue dry loaded onto silica. Purification was accomplished by flash chromatography on silica gel (2×14) eluting with MeOH/CH2Cl2 (5-7.5%) to yield the title compound (26 mg, 43%) as a pale yellow solid.

reactant | 4-(4-((1,2,4-oxadiazol-3-yl)methyl)piperazin-1-yl)-5-chloro-3-nitropyridin-2-amine | 0.147 mmol, 50.0 mg | O1N=C(N=C1)CN1CCN(CC1)C1=C(C(=NC=C1Cl)N)[N+](=O)[O-] | C12H14ClN7O3
reactant | 1,3-dimethyl-1H-pyrazole-4-carbaldehyde | 0.155 mmol, 19.2 mg | CN1N=C(C(=C1)C=O)C | C6H8N2O
reactant | Na2S2O4 | 1M | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | EtOH | 3.4 mL | CCO | C2H6O
product | 3-((4-(6-Chloro-2-(1,3-dimethyl-1H-pyrazol-4-yl)-3H-imidazo[4,5-b]pyridin-7-yl)piperazin-1-yl)methyl)-1,2,4-oxadiazole | 26 mg, 43% | ClC=1C(=C2C(=NC1)NC(=N2)C=2C(=NN(C2)C)C)N2CCN(CC2)CC2=NOC=N2 | C18H20ClN9O
